US04440785
2-Amino-3-biphenylacetic Acid Hydrate (1:4)
A mixture of 4.5 g. (0.0215 mole) of 7-phenylindolin-2-one and 60 ml. of 3 N sodium hydroxide was heated at reflux under nitrogen for 17 hrs. The reaction mixture was cooled, filtered, and the filtrate was diluted with 60 ml. of water. The solution was cooled, made acidic with glacial acetic acid and the resulting tan solid was immediately collected by filtration, washed with cold water and dried under vacuum to yield 4.6 g. (98%) of product as a tan solid, m.p. 98°-100° C. (dec.).

reactant | 7-phenylindolin-2-one | 0.0215 mole | C1(=CC=CC=C1)C=1C=CC=C2CC(NC12)=O | C14H11NO
reactant | sodium hydroxide | 3 N | [OH-].[Na+]
product | 2-Amino-3-biphenylacetic Acid Hydrate | O.NC1=C(C=CC=C1CC(=O)O)C1=CC=CC=C1 | InChI=1S/C14H13NO2.H2O/c15-14-11(9-13(16)17)7-4-8-12(14)10-5-2-1-3-6-10;/h1-8H,9,15H2,(H,16,17);1H2
